*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :2012M(0805)/ZLM(-25to85[deg])/1.50e-03[uF]/100[V]
* Murata P/N :GCM2199E2A152MA04
* Property : C = 1.50e-03[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 1000[kHz]-6[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GCM2199E2A152MA04 Port1 Port2
C01 Port1 N01 1.48e-09
R01 Port1 N01 1.00e+10
L02 N01 N02 9.19e-11
R03 N02 N03 6.44e-02
C04 N03 N04 2.84e-07
R04 N03 N04 8.53e+00
C05 N04 N05 4.79e-07
R05 N04 N05 4.50e-01
C06 N05 N06 4.85e-07
R06 N05 N06 6.48e-02
L07 N06 N07 1.15e-10
R07 N06 N07 1.22e+00
C08 N07 N08 1.26e-08
L08 N07 N08 1.06e-11
R08 N07 N08 1.52e-01
C09 N08 N09 2.18e-09
L09 N08 N09 2.37e-11
R09 N08 N09 3.76e-01
C10 N09 N10 6.94e-12
L10 N09 N10 1.47e-10
R10 N09 N10 2.43e+01
C11 N10 N11 1.09e-11
L11 N10 N11 4.28e-11
R11 N10 N11 8.70e+00
C12 N11 Port2 2.56e-12
L12 N11 Port2 9.64e-11
R12 N11 Port2 2.51e+01
.ENDS GCM2199E2A152MA04
